US04431834
2-tetralinol (0.86 g) in pyridine (5 ml) was stirred with cooling to 0°. Methylsulphonyl chloride (0.8 g) was added dropwise while maintaining the temperature at 0°. The mixture was then allowed to warm to room temperature and was stirred for 0.5 hour. The mixture was then poured on to ice and immediately a white precipitate formed; the mixture was allowed to stand overnight. The precipitate was then filtered off, washed with water and air-dried to give 2-methylsulphonyloxytetralin (0.72 g), m.p. 60°-62°.

reactant | 2-tetralinol | 0.86 g | C1C(CCC2=CC=CC=C12)O | C10H12O
reactant | Methylsulphonyl chloride | 0.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylsulphonyloxytetralin | 0.72 g | CS(=O)(=O)OC1CC2=CC=CC=C2CC1 | C11H14O3S
